US04210754
2.4 G. of N-(p-chlorobenzoyl)-succinimide are added to a solution of 1.3 g. of N-(2-aminoethyl)-morpholine in 100 ml. of dioxane and the mixture is stirred overnight at room temperature. The mixture is then evaporated to dryness. 50 Ml. of ice-water are added to the oily residue and the mixture which crystallizes is allowed to stand overnight in a refrigerator. The product is removed by filtration, washed with cold water, dried and recrystallized from isopropanol, and 0.65 g. of p-chloro-N-(2-morpholinoethyl)-benzamide is obtained, which is identical to the product obtained in Example 1.

reactant | N-(p-chlorobenzoyl)-succinimide | ClC1=CC=C(C(=O)N2C(CCC2=O)=O)C=C1 | C11H8ClNO3
reactant | N-(2-aminoethyl)-morpholine | NCCN1CCOCC1 | C6H14N2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | p-chloro-N-(2-morpholinoethyl)-benzamide | ClC1=CC=C(C(=O)NCCN2CCOCC2)C=C1 | C13H17ClN2O2
